US20010049441A1
3-(1,2,3,5,8,8a-Hexahydro-7-indolizinyl)-1-(2-naphthalenesulfonyl)-7-azaindole (9.4 mg, 52.4%);
from 3-(1,2,3,5,8,8a-hexahydro-7-indolizinyl)-1H-7-Azaindole (10 mg, 0.0418 mmol), 2-naphthalenesulfonyl chloride (20 mg, 0.088 mmol) and 1M Na((TMS)2 (100 μL, 0.10 mmol) in THF (0.5 mL) at RT.

reactant | 3-(1,2,3,5,8,8a-hexahydro-7-indolizinyl)-1H-7-Azaindole | 0.0418 mmol, 10 mg | C1CCN2CC=C(CC12)C1=CNC2=NC=CC=C12 | C15H17N3
reactant | 2-naphthalenesulfonyl chloride | 0.088 mmol, 20 mg | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)Cl | C10H7ClO2S
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
product | 3-(1,2,3,5,8,8a-Hexahydro-7-indolizinyl)-1-(2-naphthalenesulfonyl)-7-azaindole | C1CCN2CC=C(CC12)C1=CN(C2=NC=CC=C12)S(=O)(=O)C1=CC2=CC=CC=C2C=C1 | C25H23N3O2S
